US07884101B2
Step 1.50b: Preparation of N-[4-(2-bromo-ethoxy)-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-3-methoxy-benzamide
A mixture of 4-(2-Bromoethoxy)-3-(2-methyl-2H-pyrazol-3-yl)-phenylamine (1.012 g, 3.417 mmole), 3-methoxy-benzoyl chloride (700 mg, 1.2 eq), and triethylamine (1.0 mL, 2 eq) in 5 mL THF was stirred at room temperature for 10 minutes. The mixture was purified by HPLC to give title compound as white solid (957 mg, 52%). Exact mass calculated for C20H20BrN3O3429.1. found 430.3 (M+H 79Br, 100), 432.5 (M+H 18Br, 98).

reactant | 4-(2-Bromoethoxy)-3-(2-methyl-2H-pyrazol-3-yl)-phenylamine | 3.417 mmole, 1.012 g | BrCCOC1=C(C=C(C=C1)N)C=1N(N=CC1)C | C12H14BrN3O
reactant | 3-methoxy-benzoyl chloride | 700 mg, 1.2 eq | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
reactant | triethylamine | 1.0 mL, 2 eq | C(C)N(CC)CC | C6H15N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-[4-(2-bromo-ethoxy)-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-3-methoxy-benzamide | 957 mg, 52% | BrCCOC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)OC)=O)C=1N(N=CC1)C | C20H20BrN3O3
